US09315495B2
To a suspension of hexanes-washed sodium hydride (918 mg, 22.95 mmol) in 10 mL anhydrous tetrahydrofuran at 0° C. was added 3,3,3-trifluoropropanol (3.5 g, 30.60 mmol) dropwise. After the addition was complete, the mixture was stirred at room temperature for 30 minutes. 2-Iodothiophene (3.21 g, 15.30 mmol) and copper(I) iodide (728 mg, 3.82 mmol) were added, the reaction vessel was flushed with argon, sealed and stirred at 100° C. for 48 h. The reaction mixture was allowed to cool to room temperature and poured into 150 mL of 5% aqueous potassium cyanide solution. Organics were extracted with 1:1 ether/hexanes (3×100 mL), dried with magnesium sulfate, filtered and concentrated. The crude residue was subjected to chromatography on silica gel (100% hexanes) to give 2-(3,3,3-trifluoropropoxyl)thiophene (1.70 g, 57%).

reactant | sodium hydride | 22.95 mmol, 918 mg | [H-].[Na+]
reactant | 3,3,3-trifluoropropanol | 30.60 mmol, 3.5 g | FC(CCO)(F)F | C3H5F3O
reactant | 2-Iodothiophene | 15.30 mmol, 3.21 g | IC=1SC=CC1 | C4H3IS
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | copper(I) iodide | 3.82 mmol, 728 mg | [Cu]I
product | 2-(3,3,3-trifluoropropoxyl)thiophene | 1.70 g, 57% | FC(CCOC=1SC=CC1)(F)F | C7H7F3OS
